US09399651B2
To a solution of 545 mg (3.5 mmol) of 1-methoxy-3-oxobut-1-en-2-yl acetate in THF (14.2 mL) −78° C. was added LHMDS (3.45 mL of a 1 M solution in toluene) dropwise. After stirring for 20 min at −78° C., the reaction mixture was treated with 0.4 mL (3.5 mmol) of benzoyl chloride dropwise, then removed from the cold bath and allowed to warm to room temperature and continue stirring for 18 h. The reaction was quenched with 10 mL 10% aq HCl and extracted with diethyl ether (3×10 mL). The organic fractions were combined, washed with sat. aq. NaCl, dried (Na2S0), and concentrated under reduced pressure to provide 1-methoxy-3,5-dioxo-5-phenylpent-1-en-2-yl acetate which was used the subsequent step without further purification.

reactant | 1-methoxy-3-oxobut-1-en-2-yl acetate | 3.5 mmol, 545 mg | C(C)(=O)OC(=COC)C(C)=O | C7H10O4
reactant | LHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | benzoyl chloride | 3.5 mmol, 0.4 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | THF | 14.2 mL | C1CCOC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-methoxy-3,5-dioxo-5-phenylpent-1-en-2-yl acetate | C(C)(=O)OC(=COC)C(CC(C1=CC=CC=C1)=O)=O | C14H14O5
